US04454320
n-Butyl lithium and an equivalent of diisopropylamine are reacted with an equivalent of 3-chlorofuran for 1.5 hours in tetrahydrofuran at -80° C. according to the procedure of Ly and Schlosser [Helv. Chim. Acta 60 (6), p. 2087 (1977)]. At the same temperature, an equivalent of alloxan in tetrahydrofuran is added dropwise and the mixture allowed to warm to room temperature for 2 hours. 5-(3-Chloro-2-furyl)-2,4,6-(1H,3H,5H)pyrimidinetrione is isolated by the procedure of Example 5.

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | 3-chlorofuran | ClC1=COC=C1 | C4H3ClO
reactant | alloxan | N1C(=O)NC(=O)C(=O)C1=O | C4H2N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(3-Chloro-2-furyl)-2,4,6-(1H,3H,5H)pyrimidinetrione | ClC1=C(OC=C1)C1C(NC(NC1=O)=O)=O | C8H5ClN2O4
